US04209525
Ethyl iminoethoxycarbonylacetate hydrochloride (49.59 g) and aminomalonamide (24.7 g) were added to anhydrous methanol (500 ml) under ice-cooling while stirring. After stirring was continued for 1 hour, the mixture was refluxed for 41/2 hours and then cooled with ice. The precipitated crystals were collected, washed with ethanol and diisopropyl ether and dried under vacuum to give ethyl 4-carbamoyl-5-hydroxy-1H-imidazole-2-acetate (32.69 g, 72.7%). m.p. 241°-241.5° C. (decomposition)

reactant | Ethyl iminoethoxycarbonylacetate hydrochloride | 49.59 g | Cl.N=CCOC(=O)CC(=O)OCC
reactant | aminomalonamide | 24.7 g | NC(C(=O)N)C(=O)N | C3H7N3O2
solvent | methanol | 500 ml | CO | CH4O
product | ethyl 4-carbamoyl-5-hydroxy-1H-imidazole-2-acetate | 32.69 g, 72.7% | C(N)(=O)C=1N=C(NC1O)CC(=O)OCC | C8H11N3O4
